US08084448B2
5-[2-Hydroxy-4-(4-phenylbutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and but-3-enyl-benzene analogous to Example 51: (M−1)−=359.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | but-3-enyl-benzene | C(CC=C)C1=CC=CC=C1 | C10H12
product | 5-[2-Hydroxy-4-(4-phenylbutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCCCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C18H20N2O4S
